US08748435B2
(4) Step D: [4-(2-ethyl-5,7-dimethyl-pyrazolo[1,5-a]pyrimidin-3-ylmethyl)-phenyl]-hydrazine (15)
The crude 4-(2-ethyl-5,7-dimethyl-pyrazolo[1,5-a]pyrimidin-3-ylmethyl)-benzenediazonium salt (14) (1.8 g, 6.16 mmol) was dissolved in 40 ml of conc. HCl. After addition of tin(II)chloride (1.75 g, 9.24 mmol) the reaction mixture was stirred for 30 min at r.t. The reaction mixture was concentrated and used in the next step without further purification.

reactant | 4-(2-ethyl-5,7-dimethyl-pyrazolo[1,5-a]pyrimidin-3-ylmethyl)-benzenediazonium | 6.16 mmol, 1.8 g | C(C)C1=NN2C(N=C(C=C2C)C)=C1CC1=CC=C(C=C1)[N+]#N
reactant | tin(II)chloride | 9.24 mmol, 1.75 g | [Sn](Cl)Cl
solvent | HCl | 40 ml | Cl | ClH
product | [4-(2-ethyl-5,7-dimethyl-pyrazolo[1,5-a]pyrimidin-3-ylmethyl)-phenyl]-hydrazine | C(C)C1=NN2C(N=C(C=C2C)C)=C1CC1=CC=C(C=C1)NN | C17H21N5
